US07176242B2
Boron trifluoride-methyl sulfide complex (0.238 g) was dissolved in dichloromethane (10 mL). The solution was cooled to −78° C. and a solution of trifluoroacetic anhydride (0.384 g) in dichloromethane (2 mL) was added. The mixture was stirred at −78° C. for 10 min, at which time a solution of butyl 1-butyl-1H-indole-6-carboxylate (0.250 g) in dichloromethane (3 mL) was added. The mixture was allowed to stir at −78° C. for 15 min and then allowed to warm to room temperature overnight. The mixture was then poured into aqueous sodium bicarbonate and extracted with dichloromethane. The organic layer was dried over sodium sulfate, filtered, and concentrated and the resulting material was chromatographed on silica gel using ethyl acetate/heptane (20/80) to give butyl 1-butyl-3-(trifluoroacetyl)-1H-indole-6-carboxylate (0.302 g). MS (ESI+) for C19H22F3N1O3+H1 m/z 370.16 (M+H)+.

reactant | trifluoroacetic anhydride | 0.384 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | butyl 1-butyl-1H-indole-6-carboxylate | 0.250 g | C(CCC)N1C=CC2=CC=C(C=C12)C(=O)OCCCC | C17H23NO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | butyl 1-butyl-3-(trifluoroacetyl)-1H-indole-6-carboxylate | 0.302 g | C(CCC)N1C=C(C2=CC=C(C=C12)C(=O)OCCCC)C(C(F)(F)F)=O | C19H22F3NO3
